US07531663B2
15 cm3 of thionyl chloride are added at 20° C. under an argon atmosphere to 1.27 g (3.75 mmol) of 3-carboxy-1-(isoquinol-1-yl)-5-methyl-1H-indole. After stirring at reflux for 4 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa), successively triturated twice with 10 cm3 of dimethoxyethane and then concentrated to dryness under reduced pressure (2.7 kPa) to give 1.2 g of 3-chlorocarbonyl-1-(isoquinol-1-yl)-5-methyl-1H-indole hydrochloride in the form of a yellow solid which is used directly in the following step.

reactant | thionyl chloride | 15 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | 3-carboxy-1-(isoquinol-1-yl)-5-methyl-1H-indole | 3.75 mmol, 1.27 g | C(=O)(O)C1=CN(C2=CC=C(C=C12)C)C1=NC=CC2=CC=CC=C12 | C19H14N2O2
product | 3-chlorocarbonyl-1-(isoquinol-1-yl)-5-methyl-1H-indole hydrochloride | 1.2 g | Cl.ClC(=O)C1=CN(C2=CC=C(C=C12)C)C1=NC=CC2=CC=CC=C12 | InChI=1S/C19H13ClN2O.ClH/c1-12-6-7-17-15(10-12)16(18(20)23)11-22(17)19-14-5-3-2-4-13(14)8-9-21-19;/h2-11H,1H3;1H
